* File: NA2X1.pex.netlist.pex
* Created: Mon Jun  5 13:09:00 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA2X1%D_VDD 1 4 12 18
c9 18 0 0.347423f
c10 12 0 0.451132f
c11 4 0 0.44458f
c12 1 0 0.0701213f
r13 14 18 0.302222
r14 1 14 0.0120155
r15 1 4 0.0329425
r16 1 8 0.0329425
r17 1 12 0.136
r18 1 8 0.102
r19 1 4 0.2295
.ends

.subckt PM_NA2X1%OUT 2 4 9 16 17 25 26 29 30 33 38
c28 38 0 0.161741f
c29 33 0 0.268954f
c30 29 0 0.124382f
c31 26 0 0.0619161f
c32 25 0 0.145721f
c33 24 0 0.0398649f
c34 17 0 0.048903f
c35 16 0 0.109498f
c36 12 0 0.199312f
c37 9 0 0.252877f
c38 4 0 0.114325f
c39 2 0 0.132087f
r40 30 38 0.04675
r41 29 33 0.0562216
r42 25 26 0.0728571
r43 18 33 0.474583
r44 16 18 0.0602445
r45 16 17 0.0432445
r46 13 25 0.262083
r47 12 38 0.025958
r48 12 26 0.34
r49 10 24 0.00935391
r50 9 13 0.0474919
r51 9 10 0.57375
r52 5 24 0.0359928
r53 5 17 0.085
r54 4 24 0.0359928
r55 3 19 0.025958
r56 3 4 0.198333
r57 2 19 0.03825
.ends

.subckt PM_NA2X1%D_GND 1 3 9
c7 9 0 0.587638f
c8 3 0 0.2759f
c9 1 0 0.375198f
r10 3 4 0.2125
r11 1 4 0.0120155
r12 1 9 0.0329425
r13 1 13 0.0329425
r14 1 13 0.1105
r15 1 9 0.21675
.ends

.subckt PM_NA2X1%A 3 7 11 12 14 17
c23 17 0 0.144435f
c24 14 0 0.0223836f
c25 12 0 0.112647f
c26 11 0 0.241096f
c27 7 0 0.455029f
c28 3 0 0.275282f
r29 17 21 15.2843
r30 17 20 15.2843
r31 14 17 7
r32 11 12 17.6176
r33 11 21 81.25
r34 7 20 129.167
r35 3 12 54.1667
.ends

.subckt PM_NA2X1%B 1 3 8 12 15 18 21
c23 21 0 0.185033f
c24 18 0 0.146128f
c25 15 0 0.0241028f
c26 12 0 0.143124f
c27 8 0 0.595993f
c28 1 0 0.197627f
r29 18 22 15.2843
r30 18 21 15.2843
r31 15 18 7
r32 10 12 18.75
r33 8 22 160.417
r34 4 12 1.46822
r35 4 21 62.5
r36 1 10 1.46822
r37 1 3 41.6667
.ends

