* File: NA3X1.pex.netlist.pex
* Created: Mon Jun  5 13:11:32 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA3X1%D_VDD 1 4 8 24 25
c12 25 0 0.297918f
c13 24 0 0.189574f
c14 21 0 0.0701213f
c15 8 0 0.273612f
c16 4 0 0.430023f
c17 1 0 0.285909f
r18 20 25 0.217222
r19 20 21 0.0120155
r20 16 24 0.217222
r21 12 21 0.0329425
r22 8 21 0.0329425
r23 1 16 0.0120155
r24 1 4 0.0329425
r25 1 9 0.0329425
r26 1 12 0.051
r27 1 8 0.1445
r28 1 9 0.102
r29 1 4 0.2295
.ends

.subckt PM_NA3X1%OUT 2 6 7 9 17 18
c25 18 0 0.148069f
c26 17 0 0.240982f
c27 13 0 0.119595f
c28 9 0 0.247348f
c29 7 0 0.18143f
c30 6 0 0.451893f
r31 14 18 0.193611
r32 12 17 0.193611
r33 12 13 0.0359928
r34 8 13 0.00935391
r35 7 14 0.0474919
r36 7 8 0.273889
r37 4 13 0.0359928
r38 4 6 0.2125
r39 3 9 0.013673
r40 3 6 0.273889
r41 2 9 0.095807
.ends

.subckt PM_NA3X1%D_GND 1 3 9
c8 9 0 0.752129f
c9 3 0 0.299022f
c10 1 0 0.35734f
r11 3 4 0.207778
r12 1 4 0.0120155
r13 1 9 0.0329425
r14 1 15 0.0329425
r15 1 15 0.12325
r16 1 9 0.0935
.ends

.subckt PM_NA3X1%A 5 7 9 12 15 21 22
c21 22 0 0.152502f
c22 21 0 0.113969f
c23 15 0 0.0217519f
c24 12 0 0.183864f
c25 7 0 0.2938f
c26 5 0 0.704833f
r27 22 23 15.22
r28 21 22 15.22
r29 15 22 7
r30 10 12 33.3333
r31 7 12 1.46822
r32 7 9 68.75
r33 5 23 197.917
r34 1 10 1.46822
r35 1 21 37.5
.ends

.subckt PM_NA3X1%B 3 7 10 17
c21 17 0 0.150961f
c22 10 0 0.021115f
c23 7 0 0.425164f
c24 3 0 0.717935f
r25 17 18 15.22
r26 16 17 15.22
r27 10 17 7
r28 7 16 131.25
r29 3 18 197.917
.ends

.subckt PM_NA3X1%C 3 5 8 10 11 13 21
c17 21 0 0.206763f
c18 13 0 0.025059f
c19 11 0 0.1189f
c20 10 0 0.245425f
c21 8 0 0.773636f
c22 5 0 0.159218f
r23 20 21 9.72222
r24 16 20 1.38889
r25 13 16 7
r26 10 11 17.6176
r27 6 21 6.3741
r28 6 8 197.917
r29 5 20 6.3741
r30 5 11 47.9167
r31 3 10 58.3333
.ends

