* File: NA4X1.pex.netlist.pex
* Created: Mon Jun  5 13:12:09 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA4X1%D_VDD 1 4 8 10 14 24 34 40 41 42 43 57 61
c50 61 0 0.0301548f
c51 57 0 0.0698101f
c52 43 0 0.0955736f
c53 41 0 0.392394f
c54 35 0 0.0458872f
c55 34 0 0.0376312f
c56 32 0 0.0701213f
c57 24 0 0.0435991f
c58 14 0 0.553605f
c59 10 0 0.2619f
c60 9 0 0.115836f
c61 8 0 0.0983299f
c62 4 0 0.251323f
c63 1 0 0.527354f
r64 43 62 0.0522107
r65 43 61 0.0356444
r66 43 61 0.051
r67 42 57 0.0188889
r68 34 43 0.0559945
r69 31 41 0.288056
r70 31 32 0.0120155
r71 25 35 0.0231002
r72 24 35 0.0225187
r73 24 62 0.19125
r74 21 57 0.0216719
r75 21 34 0.198333
r76 15 32 0.0329425
r77 14 35 0.0231002
r78 10 32 0.0329425
r79 8 40 0.0425987
r80 8 9 0.122778
r81 1 9 0.0120155
r82 1 4 0.0329425
r83 1 11 0.0329425
r84 1 25 0.1785
r85 1 14 0.0425
r86 1 15 0.204
r87 1 10 0.1275
r88 1 11 0.11475
r89 1 4 0.08075
.ends

.subckt PM_NA4X1%OUT1 2 5 8 9 11 14 19 22 23 25 32 34 37 40
c62 40 0 0.191233f
c63 37 0 0.0682611f
c64 34 0 0.139298f
c65 32 0 0.0312783f
c66 30 0 0.0352765f
c67 25 0 0.0253771f
c68 23 0 0.0498944f
c69 22 0 0.0970063f
c70 19 0 0.342195f
c71 17 0 0.0421452f
c72 14 0 0.143556f
c73 9 0 0.530786f
c74 8 0 0.168599f
c75 5 0 0.305586f
c76 2 0 0.118829f
r77 33 40 12.5
r78 32 34 0.0519666
r79 32 33 7
r80 25 37 0.0566888
r81 24 25 0.085
r82 22 24 0.0474919
r83 22 23 0.226667
r84 21 30 0.00935391
r85 21 34 0.48875
r86 19 23 0.0474919
r87 18 30 0.0359928
r88 18 19 0.885417
r89 17 30 0.0359928
r90 17 29 0.085
r91 12 14 20.8333
r92 9 14 1.46822
r93 9 11 141.667
r94 8 12 1.46822
r95 7 40 6.3741
r96 7 8 52.0833
r97 3 40 6.3741
r98 3 5 62.5
r99 2 29 0.0562216
.ends

.subckt PM_NA4X1%D_GND 1 5 6 7 21 24 27 36
c36 28 0 0.0701213f
c37 27 0 0.37963f
c38 25 0 0.0701213f
c39 24 0 0.379537f
c40 22 0 0.0701213f
c41 21 0 0.478127f
c42 7 0 0.165058f
c43 6 0 0.1465f
c44 5 0 0.180143f
c45 1 0 0.30454f
r46 27 28 0.0329425
r47 26 28 0.0329425
r48 24 25 0.0329425
r49 23 36 0.02125
r50 23 25 0.0329425
r51 21 22 0.0329425
r52 20 22 0.0329425
r53 16 28 0.0120155
r54 12 25 0.0120155
r55 8 22 0.0120155
r56 7 16 0.151111
r57 6 12 0.151111
r58 5 8 0.174722
r59 1 26 0.0085
r60 1 27 0.187
r61 1 36 0.14875
r62 1 24 0.1615
r63 1 20 0.1785
r64 1 21 0.153
.ends

.subckt PM_NA4X1%N$108 2 3 6 7 9 10 11 14 17 18 20 30 32 35 36 41 42 47
c94 47 0 0.298408f
c95 42 0 0.232065f
c96 41 0 0.0341636f
c97 36 0 0.037952f
c98 35 0 0.211836f
c99 32 0 0.101846f
c100 30 0 0.0854045f
c101 20 0 0.0329925f
c102 18 0 0.0221725f
c103 17 0 0.1087f
c104 14 0 0.196546f
c105 11 0 0.0756335f
c106 10 0 0.256103f
c107 7 0 0.241638f
c108 6 0 0.115026f
c109 3 0 0.467687f
c110 2 0 0.0695601f
r111 42 53 20.5177
r112 41 44 0.0188889
r113 41 42 7
r114 36 38 0.0920833
r115 35 50 12.5
r116 34 35 7
r117 32 47 0.146389
r118 32 34 0.14011
r119 29 47 0.193611
r120 28 30 0.0522107
r121 28 29 0.0133396
r122 26 28 0.135227
r123 21 36 0.00499195
r124 20 44 0.0216719
r125 20 21 0.219583
r126 18 38 0.00499195
r127 18 30 0.134583
r128 17 26 0.029859
r129 17 25 0.396667
r130 12 14 37.5
r131 10 12 13.9682
r132 10 11 58.3333
r133 7 9 41.6667
r134 6 53 4.84696
r135 5 11 13.9682
r136 5 6 37.5
r137 4 50 6.3741
r138 3 7 13.9682
r139 3 4 129.167
r140 2 25 0.0519666
.ends

.subckt PM_NA4X1%OUT2 2 3 5 9 11 14 16 17 18 19 20 21 24 25 37 38
c95 38 0 0.0780769f
c96 25 0 0.0296727f
c97 24 0 0.118801f
c98 21 0 0.0138179f
c99 20 0 0.0865746f
c100 19 0 0.0823636f
c101 18 0 0.00814263f
c102 17 0 0.0188158f
c103 16 0 0.0736074f
c104 14 0 0.00699533f
c105 11 0 0.0609108f
c106 9 0 0.215338f
c107 5 0 0.731786f
c108 3 0 0.289084f
c109 2 0 0.114395f
r110 28 29 7
r111 25 28 0.0283333
r112 23 24 0.34
r113 21 23 0.0474919
r114 21 22 0.0920833
r115 20 37 0.057244
r116 19 24 0.0474919
r117 19 20 0.162917
r118 17 31 0.0268062
r119 17 18 0.141667
r120 16 38 0.0566888
r121 15 37 0.142981
r122 15 16 0.425
r123 13 18 0.0474919
r124 13 14 0.10625
r125 12 25 0.0216719
r126 11 14 0.0474919
r127 11 12 0.2125
r128 7 29 26.0827
r129 7 9 37.5
r130 3 29 15.5962
r131 3 5 222.917
r132 2 22 0.0915769
r133 2 31 0.0166503
.ends

.subckt PM_NA4X1%OUT 2 8 10 12 20 21 24 28
c34 28 0 1.00792f
c35 24 0 0.114422f
c36 21 0 0.0503805f
c37 20 0 0.168803f
c38 19 0 0.0516096f
c39 12 0 0.2876f
c40 10 0 0.0557576f
c41 8 0 0.124976f
c42 2 0 0.0943075f
r43 24 32 0.059739
r44 20 28 15.2843
r45 19 21 0.0519666
r46 19 20 7
r47 12 26 33.1565
r48 10 13 0.100262
r49 10 12 7
r50 8 13 0.01496
r51 8 17 0.226667
r52 6 32 0.0257945
r53 6 21 0.1275
r54 3 26 4.25758
r55 3 28 289.583
r56 2 17 0.0519666
.ends

.subckt PM_NA4X1%B 3 7 13 16
c37 16 0 0.372166f
c38 13 0 0.0248544f
c39 7 0 0.818322f
c40 3 0 0.530196f
r41 11 16 17.0999
r42 11 13 7
r43 5 16 41.0397
r44 5 7 225
r45 1 16 3.88502
r46 1 3 145.833
.ends

.subckt PM_NA4X1%A 2 3 4 7 9 11 15 21
c32 21 0 0.0238261f
c33 15 0 0.167737f
c34 11 0 0.551551f
c35 9 0 0.151231f
c36 7 0 0.310363f
c37 4 0 0.0713947f
c38 3 0 0.09396f
c39 2 0 0.329172f
r40 19 21 7
r41 13 15 31.25
r42 9 19 7.27511
r43 9 11 147.917
r44 5 15 1.46822
r45 5 7 81.25
r46 3 19 6.69311
r47 3 4 27.0833
r48 2 4 13.9682
r49 1 13 1.46822
r50 1 2 120.833
.ends

.subckt PM_NA4X1%C 2 5 7 8 10 11 17 19
c41 19 0 0.198132f
c42 17 0 0.0361702f
c43 11 0 0.0985686f
c44 8 0 0.0670342f
c45 7 0 0.227119f
c46 5 0 0.341639f
c47 2 0 0.248645f
r48 15 19 9.72222
r49 15 17 7
r50 11 12 18.018
r51 8 10 41.6667
r52 7 19 6.3741
r53 7 10 56.25
r54 3 12 0.482304
r55 3 5 91.6667
r56 2 8 13.9682
r57 1 11 0.482304
r58 1 2 91.6667
.ends

.subckt PM_NA4X1%D 2 5 7 8 9 11 14 16 18 21 23 26 30
c59 30 0 0.360635f
c60 26 0 0.0705975f
c61 23 0 0.0471249f
c62 21 0 0.156216f
c63 18 0 0.135949f
c64 16 0 0.0561713f
c65 14 0 0.0991297f
c66 9 0 0.221617f
c67 8 0 0.0852628f
c68 7 0 0.183869f
c69 5 0 0.228169f
c70 2 0 0.599533f
r71 26 28 0.0519666
r72 21 30 15.2843
r73 20 23 0.0236111
r74 20 21 7
r75 18 23 0.0216719
r76 18 28 0.354167
r77 14 15 18.5185
r78 13 16 10.5861
r79 13 30 116.667
r80 9 16 2.75115
r81 9 11 41.6667
r82 7 16 10.5861
r83 7 8 58.3333
r84 3 15 0.129719
r85 3 5 54.1667
r86 2 8 13.9682
r87 1 14 0.129719
r88 1 2 208.333
.ends

