* File: NA5X1.pex.netlist.pex
* Created: Mon Jun  5 13:12:50 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA5X1%D_VDD 1 4 8 12 28 32 33 40 41 42 43
c49 43 0 0.121125f
c50 42 0 0.0739332f
c51 41 0 0.25673f
c52 40 0 0.14457f
c53 35 0 0.0688308f
c54 33 0 0.0379623f
c55 32 0 0.0322851f
c56 31 0 0.0779126f
c57 28 0 0.0303425f
c58 26 0 0.0701213f
c59 12 0 0.562503f
c60 8 0 0.26989f
c61 4 0 0.571962f
c62 1 0 0.424594f
r63 42 56 0.0292431
r64 34 43 0.269167
r65 34 35 0.0120155
r66 32 43 0.00472222
r67 32 33 0.0519666
r68 30 41 0.153
r69 30 31 0.00935391
r70 29 41 0.136944
r71 28 41 0.03825
r72 28 29 0.0435353
r73 25 40 0.17
r74 25 26 0.0120155
r75 21 35 0.0329425
r76 19 56 0.0203888
r77 19 33 0.198333
r78 13 31 0.0359928
r79 12 35 0.0329425
r80 9 26 0.0329425
r81 8 31 0.0359928
r82 4 26 0.0329425
r83 1 21 0.1445
r84 1 12 0.051
r85 1 13 0.204
r86 1 8 0.119
r87 1 9 0.13175
r88 1 4 0.199665
.ends

.subckt PM_NA5X1%OUT1 2 3 7 9 11 13 15 18 21 22 23 24 26 29 32 38 39 41 43 47 48
+ 49 55 57
c91 57 0 0.09022f
c92 55 0 0.0418935f
c93 49 0 0.172284f
c94 47 0 0.110313f
c95 43 0 0.0638939f
c96 41 0 0.0201169f
c97 39 0 0.0153045f
c98 38 0 0.00617813f
c99 32 0 0.0115803f
c100 29 0 0.0668628f
c101 26 0 0.152106f
c102 24 0 0.0501757f
c103 23 0 0.0116185f
c104 21 0 0.0257385f
c105 18 0 0.0459795f
c106 15 0 0.0583626f
c107 13 0 0.116905f
c108 9 0 0.524777f
c109 7 0 0.555415f
c110 3 0 0.120053f
c111 2 0 0.150751f
r112 48 57 0.0533676
r113 47 55 0.0566888
r114 42 49 5.55556
r115 41 43 0.0519666
r116 41 42 7
r117 32 57 0.0205746
r118 31 32 0.085
r119 30 39 0.0359928
r120 29 31 0.0474919
r121 29 30 0.14875
r122 28 38 0.0359928
r123 28 43 0.304583
r124 26 39 0.00935391
r125 25 38 0.00935391
r126 25 26 0.545417
r127 23 39 0.0359928
r128 23 24 0.1275
r129 21 38 0.0359928
r130 21 22 0.162917
r131 19 24 0.0474919
r132 19 55 0.085
r133 18 22 0.0474919
r134 17 18 0.36125
r135 16 36 0.0216719
r136 15 17 0.0474919
r137 15 16 0.205417
r138 12 13 20.8333
r139 9 13 1.46822
r140 9 11 141.667
r141 5 12 1.46822
r142 5 7 152.083
r143 4 49 6.3741
r144 3 12 12.5
r145 3 4 41.6667
r146 2 36 0.0330556
.ends

.subckt PM_NA5X1%D_GND 1 6 7 8 9 19 22 33 41 48
c37 48 0 0.835277f
c38 41 0 0.536833f
c39 23 0 0.0701213f
c40 22 0 0.37963f
c41 20 0 0.0701213f
c42 19 0 0.307721f
c43 9 0 0.165058f
c44 8 0 0.1465f
c45 1 0 0.30454f
r46 22 23 0.0329425
r47 21 23 0.0329425
r48 19 20 0.0329425
r49 18 33 0.02125
r50 18 20 0.0329425
r51 14 23 0.0120155
r52 10 20 0.0120155
r53 9 14 0.151111
r54 8 10 0.151111
r55 7 48 0.0626608
r56 6 41 0.0626608
r57 1 7 0.0301974
r58 1 6 0.00671053
r59 1 21 0.0085
r60 1 22 0.187
r61 1 33 0.14875
r62 1 19 0.1615
r63 1 48 0.119
r64 1 41 0.208165
.ends

.subckt PM_NA5X1%N$108 2 3 6 7 9 10 11 14 17 18 20 30 32 35 36 41 42 47
c88 47 0 0.304635f
c89 42 0 0.225197f
c90 41 0 0.0341636f
c91 36 0 0.037952f
c92 35 0 0.211643f
c93 32 0 0.102191f
c94 30 0 0.0828701f
c95 20 0 0.0329925f
c96 18 0 0.0221725f
c97 17 0 0.105803f
c98 14 0 0.195806f
c99 11 0 0.0756335f
c100 10 0 0.263334f
c101 7 0 0.240245f
c102 6 0 0.112379f
c103 3 0 0.462882f
c104 2 0 0.0674555f
r105 42 53 20.5177
r106 41 44 0.0188889
r107 41 42 7
r108 36 38 0.0920833
r109 35 50 12.5
r110 34 35 7
r111 32 47 0.146389
r112 32 34 0.14011
r113 29 47 0.193611
r114 28 30 0.0522107
r115 28 29 0.0133396
r116 26 28 0.135227
r117 21 36 0.00499195
r118 20 44 0.0216719
r119 20 21 0.219583
r120 18 38 0.00499195
r121 18 30 0.134583
r122 17 26 0.029859
r123 17 25 0.396667
r124 12 14 37.5
r125 10 12 13.9682
r126 10 11 58.3333
r127 7 9 41.6667
r128 6 53 4.84696
r129 5 11 13.9682
r130 5 6 37.5
r131 4 50 6.3741
r132 3 7 13.9682
r133 3 4 129.167
r134 2 25 0.0519666
.ends

.subckt PM_NA5X1%OUT2 2 3 5 9 11 14 16 17 18 19 20 21 24 25 37 38
c94 38 0 0.0785207f
c95 25 0 0.0296727f
c96 24 0 0.119569f
c97 21 0 0.0130939f
c98 20 0 0.094901f
c99 19 0 0.0798363f
c100 18 0 0.00814263f
c101 17 0 0.0188158f
c102 16 0 0.0741281f
c103 14 0 0.00699533f
c104 11 0 0.0609108f
c105 9 0 0.215338f
c106 5 0 0.731786f
c107 3 0 0.288952f
c108 2 0 0.114073f
r109 28 29 7
r110 25 28 0.0283333
r111 23 24 0.34
r112 21 23 0.0474919
r113 21 22 0.0920833
r114 20 37 0.057244
r115 19 24 0.0474919
r116 19 20 0.162917
r117 17 31 0.0268062
r118 17 18 0.141667
r119 16 38 0.0566888
r120 15 37 0.142981
r121 15 16 0.425
r122 13 18 0.0474919
r123 13 14 0.10625
r124 12 25 0.0216719
r125 11 14 0.0474919
r126 11 12 0.2125
r127 7 29 26.0827
r128 7 9 37.5
r129 3 29 15.5962
r130 3 5 222.917
r131 2 22 0.0915769
r132 2 31 0.0166503
.ends

.subckt PM_NA5X1%OUT 2 8 10 12 20 21 24 28
c32 28 0 0.778006f
c33 24 0 0.114143f
c34 21 0 0.0503805f
c35 20 0 0.168803f
c36 19 0 0.0516096f
c37 12 0 0.30042f
c38 10 0 0.0506361f
c39 8 0 0.256092f
c40 2 0 0.102216f
r41 24 32 0.059739
r42 20 28 15.2843
r43 19 21 0.0519666
r44 19 20 7
r45 12 26 33.1565
r46 10 13 0.06375
r47 10 12 7
r48 8 13 0.0168885
r49 8 17 0.4675
r50 6 32 0.0257945
r51 6 21 0.1275
r52 3 26 4.25758
r53 3 28 218.75
r54 2 17 0.0519666
.ends

.subckt PM_NA5X1%A 1 3 6 9 13 16 19 21 27
c34 27 0 0.244443f
c35 21 0 0.124338f
c36 19 0 0.0281359f
c37 16 0 0.191198f
c38 13 0 0.0407949f
c39 11 0 0.0693278f
c40 9 0 0.199217f
c41 6 0 0.57973f
c42 1 0 0.280559f
r43 20 27 18.0556
r44 19 21 0.0519666
r45 19 20 7
r46 16 24 10.3254
r47 13 17 0.0519666
r48 13 16 7
r49 11 21 0.198333
r50 9 11 0.0474919
r51 9 17 0.354167
r52 4 27 6.3741
r53 4 6 147.917
r54 1 24 5.62117
r55 1 3 62.5
.ends

.subckt PM_NA5X1%B 3 5 6 11 14 17 20
c50 20 0 0.119082f
c51 17 0 0.160988f
c52 14 0 0.0241474f
c53 11 0 0.545761f
c54 6 0 0.0764279f
c55 5 0 0.3669f
c56 3 0 0.45244f
r57 17 21 15.219
r58 17 20 13.5283
r59 14 17 7
r60 11 21 147.917
r61 7 20 30.3571
r62 5 7 14.076
r63 5 6 100
r64 1 6 13.9682
r65 1 3 143.75
.ends

.subckt PM_NA5X1%E 1 3 6 8 11 13 17 19 20 22
c55 22 0 0.201375f
c56 20 0 0.160075f
c57 19 0 0.0989605f
c58 17 0 0.0277026f
c59 11 0 0.0398007f
c60 8 0 0.188942f
c61 6 0 0.628825f
c62 1 0 0.259728f
r63 20 26 15.2843
r64 19 21 0.157624
r65 19 20 7
r66 16 22 13.6364
r67 13 17 0.0519666
r68 13 16 7
r69 11 21 0.0130406
r70 10 11 0.2975
r71 8 10 0.0474919
r72 8 17 0.53125
r73 6 26 164.583
r74 1 22 5.33506
r75 1 3 62.5
.ends

.subckt PM_NA5X1%C 2 5 7 8 10 11 17 19
c41 19 0 0.198122f
c42 17 0 0.0359305f
c43 11 0 0.0985686f
c44 8 0 0.0670342f
c45 7 0 0.227119f
c46 5 0 0.341639f
c47 2 0 0.248645f
r48 15 19 9.72222
r49 15 17 7
r50 11 12 18.018
r51 8 10 41.6667
r52 7 19 6.3741
r53 7 10 56.25
r54 3 12 0.482304
r55 3 5 91.6667
r56 2 8 13.9682
r57 1 11 0.482304
r58 1 2 91.6667
.ends

.subckt PM_NA5X1%D 2 5 7 8 9 11 14 16 18 21 23 26 30
c59 30 0 0.360634f
c60 26 0 0.0653329f
c61 23 0 0.0464748f
c62 21 0 0.156298f
c63 18 0 0.0440203f
c64 16 0 0.0561713f
c65 14 0 0.0991297f
c66 9 0 0.221817f
c67 8 0 0.0852628f
c68 7 0 0.183869f
c69 5 0 0.228169f
c70 2 0 0.599533f
r71 26 28 0.0519666
r72 21 30 15.2843
r73 20 23 0.0236111
r74 20 21 7
r75 18 23 0.0216719
r76 18 28 0.113333
r77 14 15 18.5185
r78 13 16 10.5861
r79 13 30 116.667
r80 9 16 2.75115
r81 9 11 41.6667
r82 7 16 10.5861
r83 7 8 58.3333
r84 3 15 0.129719
r85 3 5 54.1667
r86 2 8 13.9682
r87 1 14 0.129719
r88 1 2 208.333
.ends

